US05656627
Step C. N-(N-Acetyl-tyrosinyl-valinyl-(4-benzyloxyprolinyl))-3-amino-4oxobutanoic acid
N-(N-Acetyl-tyrosinyl-valinyl-(4-benzyloxyprolinyl))-3-amino-4-oxobutanoic acid tert-butyl ester semicarbazone (270 mg) was dissolved into 10 ml of 25% trifluoroacetic acid in dichloromethane and stirred at room temperature for 3 hours. The mixture was concentrated to give a solid residue. The residue was dissolved into a 10 ml mixture of methanol:acetic acid:37% formaldehyde (3:1:1) and stirred at room temperature for 1 hour. The mixture was concentrated and the resulting residue purified by flash chromatography (SiO2) eluting with dichloromethane/methanol/formic acid (100:5:0.5) to give 37 mg of the title compound.

reactant | N-(N-Acetyl-tyrosinyl-valinyl-(4-benzyloxyprolinyl))-3-amino-4-oxobutanoic acid tert-butyl ester semicarbazone | 270 mg | C(C)(C)(C)OC(CC(C=O)NC([C@H]1N(CC(C1)OCC1=CC=CC=C1)C([C@@H](NC([C@@H](NC(C)=O)CC1=CC=C(C=C1)O)=O)C(C)C)=O)=O)=NNC(=O)N | C37H51N7O9
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | methanol | CO | CH4O
reactant | formaldehyde | C=O | CH2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-(N-Acetyl-tyrosinyl-valinyl-(4-benzyloxyprolinyl))-3-amino-4oxobutanoic acid | 37 mg | C(C)(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](C(C)C)C(=O)N1[C@H](C(=O)NC(CC(=O)O)C=O)CC(C1)OCC1=CC=CC=C1 | C32H40N4O9
